US07446118B2
3-(2-Methyl-1H-indol-5-yl)-3-phenyl-acrylic acid ethyl ester LXVII (1.25 g, 57%) was prepared from 2-methyl-5-bromoindole using the procedure described above for 3-(3-cyano-1H-Indol-4-yl)-3-phenyl-acrylic acid ethyl ester LVIII (see Example 14).

reactant | 2-methyl-5-bromoindole | CC=1NC2=CC=C(C=C2C1)Br | C9H8BrN
reactant | 3-(3-cyano-1H-Indol-4-yl)-3-phenyl-acrylic acid ethyl ester | C(C)OC(C=C(C1=CC=CC=C1)C1=C2C(=CNC2=CC=C1)C#N)=O | C20H16N2O2
product | 3-(2-Methyl-1H-indol-5-yl)-3-phenyl-acrylic acid ethyl ester | C(C)OC(C=C(C1=CC=CC=C1)C=1C=C2C=C(NC2=CC1)C)=O | C20H19NO2
